US04803270
To a solution of 1,5-difluoro-2,4-dinitrobenzene (7.4 g) and triethylamine (4.4 g) in toluene (74 g) kept at room temperature, a mixture of glycolonitrile (3.1 g) and toluene (6.2 g) was dropwise added, followed by stirring at room temperature for 2 hours. The reaction mixture was poured into 5% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and concentrated to give 2,4-dinitro-5-fluorophenoxyacetonitrile (8.2 g; yield, 93.8%). M.P., 112°-113° C. (recrystallized from ethyl acetate-hexane).

reactant | 1,5-difluoro-2,4-dinitrobenzene | 7.4 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C6H2F2N2O4
reactant | triethylamine | 4.4 g | C(C)N(CC)CC | C6H15N
reactant | glycolonitrile | 3.1 g | C(CO)#N | C2H3NO
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 74 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.2 g | C1(=CC=CC=C1)C | C7H8
product | 2,4-dinitro-5-fluorophenoxyacetonitrile | 8.2 g, 93.8% | [N+](=O)([O-])C1=C(OCC#N)C=C(C(=C1)[N+](=O)[O-])F | C8H4FN3O5
